US06946554B2
Methyl 3-(N,N′-bis-carbomethoxyguanidinyl)-4-(3-pyridylmethyl)-1H-pyrrole-2-carboxylate
Methyl 3-amino-4-(3-pyridylmethyl)-1H-pyrrole-2-carboxylate, obtained from Example 16 (2.31 g, 0.01 mol), N,N′-bis-carbomethoxy-S-methylisothiourea (2.27 g, 0.011 mol) and triethylamine (3.6 g, 0.35 mol) were stirred together in acetonitrile (50 mL) and cooled to 5° C. Mercuric chloride (2.98 g, 0.011 mol) was added and an immediate precipitate was observed. The mixture was stirred at room temperature overnight.

reactant | Methyl 3-amino-4-(3-pyridylmethyl)-1H-pyrrole-2-carboxylate | NC1=C(NC=C1CC=1C=NC=CC1)C(=O)OC | C12H13N3O2
reactant | N,N′-bis-carbomethoxy-S-methylisothiourea | 0.011 mol, 2.27 g | C(=O)(OC)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | triethylamine | 0.35 mol, 3.6 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Methyl 3-(N,N′-bis-carbomethoxyguanidinyl)-4-(3-pyridylmethyl)-1H-pyrrole-2-carboxylate | C(=O)(OC)N(C(=N)NC(=O)OC)C1=C(NC=C1CC=1C=NC=CC1)C(=O)OC | C17H19N5O6
